US05808062
6-(2,6-Dimethyl-4-pyridinyl)-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one.
The title compound was prepared from the condensation of the trimethylsilyl enol ether of 4-acetyl-2,6-dimethylpyridine and the diethyl ester of [(phenylmethyl)thio]propanedioic acid following the same procedure outlined in Method A; m.p. 88°-90° C. NMR (DMSO-d6) δ 2.55 (s, 6 H), 4.02 (s, 2 H), 6.85 (s, 1 H), 7.16-7.28 (m, 5 H), 7.40 (s, 2 H).

reactant | 4-acetyl-2,6-dimethylpyridine | C(C)(=O)C1=CC(=NC(=C1)C)C | C9H11NO
reactant | [(phenylmethyl)thio]propanedioic acid | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
product | 6-(2,6-Dimethyl-4-pyridinyl)-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one | CC1=NC(=CC(=C1)C1=CC(=C(C(O1)=O)SCC1=CC=CC=C1)O)C | C19H17NO3S
